US04582526
0.8 g of Raney-nickel are placed in a hydrogenation flask and suspended in 50 ml of ethanol. 7.6 g of 4'-chloro-2,2'-diethoxy-2'-nitroacetanilide are added thereto and the mixture is hydrogenated at room temperature and normal pressure. The uptake of hydrogen has finished after 2 hours. After suction filtration and concentration of the filtrate, the product is precipitated with water. There is obtained 4'-chloro-2,2-diethoxy-2'-aminoacetanilide of melting point 89°-90° C.

reactant | 4'-chloro-2,2'-diethoxy-2'-nitroacetanilide | 7.6 g | ClC1=CC(C(NC(COCC)=O)C=C1)([N+](=O)[O-])OCC | C12H17ClN2O5
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.8 g | [Ni] | Ni
product | 4'-chloro-2,2-diethoxy-2'-aminoacetanilide | ClC1=CC(=C(NC(C(OCC)OCC)=O)C=C1)N | C12H17ClN2O3
